US04578393
1-(4-Chlorophenyl)-3-dimethylamino-8-hydroxy-1,4-dihydroisoquinoline hydrobromide hydrate
A solution of 1-(4-chlorophenyl)-3-dimethylamino-8-methoxy-1,4-dihydroisoquinoline hydrochloride (0.9 g) in 48% aqueous hydrobromic acid (100 ml) was heated at 115°-120° C. for 2.5 h. The solution was evaporated to dryness in vacuo and recrystallised from methanol-water to afford the title compound, (0.66 g), m.p. 185°-187° C.

reactant | 1-(4-chlorophenyl)-3-dimethylamino-8-methoxy-1,4-dihydroisoquinoline hydrochloride | 0.9 g | Cl.ClC1=CC=C(C=C1)C1N=C(CC2=CC=CC(=C12)OC)N(C)C
reactant | hydrobromic acid | 100 ml | Br | BrH
product | 1-(4-Chlorophenyl)-3-dimethylamino-8-hydroxy-1,4-dihydroisoquinoline hydrobromide hydrate | 0.66 g | O.Br.ClC1=CC=C(C=C1)C1N=C(CC2=CC=CC(=C12)O)N(C)C | InChI=1S/C17H17ClN2O.BrH.H2O/c1-20(2)15-10-12-4-3-5-14(21)16(12)17(19-15)11-6-8-13(18)9-7-11;;/h3-9,17,21H,10H2,1-2H3;1H;1H2
